US05034381
A mixture of 2-chloroadenosine (0.3 g) and 1,4-dioxaspiro[4.5]decane-8-ethanamine (1.0 g) is heated under nitrogen at 140° for 6 hours. It is evaporated to dryness at reduced pressure, the residue is dissolved in ethanol, the solution is treated with propylene oxide (2 ml) and stirred 4 hours. The precipitate is collected, washed with ethanol and dried in vacuo to give 2-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethylamino]adenosine, [alpha]D25 =-27.3° (MeOH), m.p. 133°-137°.

reactant | 2-chloroadenosine | 0.3 g | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12ClN5O4
reactant | 1,4-dioxaspiro[4.5]decane-8-ethanamine | 1.0 g | O1CCOC12CCC(CC2)CCN | C10H19NO2
product | 2-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethylamino]adenosine | O1CCOC12CCC(CC2)CCNC=2N=C(C=1N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C1N2)N | C20H30N6O6
